US06949542B2
(2-Chloro-2′-fluoro-5-nitro-biphenyl-4-yl)-carbamic acid tert-butyl ester
The title compound was prepared from (5-chloro-4-iodo-2-nitro-phenyl)-carbamic acid tert-butyl ester [CAS-No. 335349-60-5] (30 g, 75.3 mmol) and 2-fluorophenylboronic acid (13.82 g, 98.8 mmol) according to the general procedure D. Obtained as a yellow gum (1.39 g).

reactant | (5-chloro-4-iodo-2-nitro-phenyl)-carbamic acid tert-butyl ester | 75.3 mmol, 30 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)Cl)I)[N+](=O)[O-])=O | C11H12ClIN2O4
reactant | 2-fluorophenylboronic acid | 98.8 mmol, 13.82 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
product | (2-Chloro-2′-fluoro-5-nitro-biphenyl-4-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC(=C(C=C1[N+](=O)[O-])C1=C(C=CC=C1)F)Cl)=O | C17H16ClFN2O4
